US06583135B2
tert-Butyl 6-(2-azidoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.174 g, 0.490 mmol) was dissolved in 1:1 EtOAc:EtOH (4 mL). 10% Pd/C (0.0543 g) was added, then the reaction mixture was stirred at rt under H2 for 2 h. The reaction mixture was filtered through celite and the celite pad was carefully washed with EtOAc. The filtrate was concentrated to give tert-butyl 6-(2-aminoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.153 g) in 95% crude yield. 1H NMR (300 MHz, CDCl3) δ 1.51, 2.99-3.10, 3.67-3.80, 4.17, 7.12, 7.19, 7.32, 7.50.

reactant | tert-Butyl 6-(2-azidoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.490 mmol, 0.174 g | N(=[N+]=[N-])CCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C19H25N5O2
reactant | EtOH | 4 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.0543 g | [Pd] | Pd
product | tert-butyl 6-(2-aminoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.153 g | NCCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C19H27N3O2
